US08202865B2
Methyl 4-[(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl)amino]butanoate
The title compound was prepared following procedure described in example 121 starting from 3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl chloride and methyl 4-aminobutyrate hydrochloride (55.01 mg; 0.36 mmol) The title compound was obtained as a sticky foam (85 mg, 71%). 1H NMR: (DMSO-d6, 300 MHz) δ 8.53 (brs, 1H), 8.43 (brs, 1H), 8.32 (m, 1H), 8.17 (m, 1H), 8 (m, 1H), 7.60 (t, J=7.8 Hz, 1H), 7.34-7.22 (m, 4H), 7.12 (m, 1H), 6.65 (m, 1H), 4.22 (s, 2H), 3.69 (s, 3H), 3.56 (m, 2H), 3.32 (s, 3H), 2.48 (t, J=7 Hz, 1H), 2.07 (s, 3H), 2.01 (m, 2H). LC/MS (Method B): 500.2 (M+H)+ 498.3 (M−H)−. HPLC (Method A) Rt: 5.68 min (purity: 99.2%).

reactant | 3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl chloride | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(C(=O)Cl)C=CC1)C1=C(C=CC=C1)C | C24H19ClN2O3
reactant | methyl 4-aminobutyrate hydrochloride | 0.36 mmol, 55.01 mg | Cl.NCCCC(=O)OC
product | Methyl 4-[(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl)amino]butanoate | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(C(=O)NCCCC(=O)OC)C=CC1)C1=C(C=CC=C1)C | C29H29N3O5
